US08026366B2
A mixture of 4-amino-2-propylthiazolo[4,5-c]quinolin-7-ol acetate (318 mg, 1.0 mmol), cesium carbonate (1.3 g, 4.0 mmol), and DMF (20 mL) was stirred at 75° C. for 10 minutes. 1-(2-Bromoethyl)pyrrole (200 mg, 1.1 mmol) was added dropwise over a period of 10 minutes. After 3 hours an additional equivalent of cesium carbonate was added in a single portion followed by the dropwise addition of an equivalent of 1-(2-bromoethyl)pyrrole. The reaction mixture was stirred overnight and then an additional equivalent of both cesium carbonate and 1-(2-bromoethyl)pyrrole were added. After 1 hour the heat source was removed; the reaction mixture was diluted with water (250 mL), stirred for 1 hour, and then filtered. The isolated solid was rinsed with water and then dried to provide a brown powder. This material was dissolved in dichloromethane and then purified by HPFC eluting with a gradient of 0-15% CMA in chloroform over 1500 mL. The resulting solid was recrystallized from acetonitrile to provide 143 mg of 2-propyl-7-[2-(pyrrol-1-yl)ethoxy]thiazolo[4,5-c]quinolin-4-amine as an off-white solid, mp 158.0-160.0° C. MS (ESI) m/z 353 (M+H)+; Anal. calcd for C19H20N4OS: C, 64.75; H, 5.72; N, 15.90. Found C, 64.86; H, 5.38; N, 16.00.

reactant | 4-amino-2-propylthiazolo[4,5-c]quinolin-7-ol acetate | 1.0 mmol, 318 mg | C(C)(=O)OC=1C=CC=2C3=C(C(=NC2C1)N)N=C(S3)CCC | C15H15N3O2S
reactant | cesium carbonate | 4.0 mmol, 1.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | 1-(2-Bromoethyl)pyrrole | 1.1 mmol, 200 mg | BrCCN1C=CC=C1 | C6H8BrN
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-propyl-7-[2-(pyrrol-1-yl)ethoxy]thiazolo[4,5-c]quinolin-4-amine | 143 mg | C(CC)C=1SC2=C(C(=NC=3C=C(C=CC23)OCCN2C=CC=C2)N)N1 | C19H20N4OS
